US04000193
a. 5-(N,N-Dibenzylglycyl)-2-(4-tetrahydropyranyloxybutoxy)benzamide
A mixture of 5-(N,N-dibenzylglycyl)salicylamide, sodium salt (3.96 g), 2-(4-chlorobutoxy)tetrahydropyran (1.92 g) sodium iodide (1.40 g) and butanone (100 ml) was heated under reflux for 30 hours and filtered. The filtrate was evaporated to give an oil which crystallised from isopropanol to afford the ether as colourless crystals (2.95 g), m.p. 118°-123°.

reactant | 5-(N,N-dibenzylglycyl)salicylamide | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | sodium | 3.96 g | [Na] | Na
reactant | 2-(4-chlorobutoxy)tetrahydropyran | 1.92 g | ClCCCCOC1OCCCC1 | C9H17ClO2
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 5-(N,N-Dibenzylglycyl)-2-(4-tetrahydropyranyloxybutoxy)benzamide | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCCCOC1OCCCC1)CC1=CC=CC=C1 | C32H38N2O5
